US04824958
4,5-Dibromo-3-(1-methylethoxy)-1-(phenylmethyl)-N-1H-tetrazol-5-yl-1H-pyrrole-2-carboxamide.
Prepared by the method described in Example 115 from 4,5-dibromo-3-(1-methylethoxy)-1-(phenylmethyl)-1H-pyrrole-2-carboxylic acid (2.1 g, 0.005 moles), 1,1'-carbonyldiimidazole (0.9 g, 0.0055 moles), and 5-aminotetrazole (0.43 g, 0.005 moles). Recrystallization from acetonitrile gave the product (1.2 g); mp 199°-205° C.

reactant | 4,5-dibromo-3-(1-methylethoxy)-1-(phenylmethyl)-1H-pyrrole-2-carboxylic acid | 0.005 moles, 2.1 g | BrC=1C(=C(N(C1Br)CC1=CC=CC=C1)C(=O)O)OC(C)C | C15H15Br2NO3
reactant | 1,1'-carbonyldiimidazole | 0.0055 moles, 0.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-aminotetrazole | 0.005 moles, 0.43 g | NC1=NN=NN1 | CH3N5
product | 4,5-Dibromo-3-(1-methylethoxy)-1-(phenylmethyl)-N-1H-tetrazol-5-yl-1H-pyrrole-2-carboxamide | 1.2 g | BrC=1C(=C(N(C1Br)CC1=CC=CC=C1)C(=O)NC1=NN=NN1)OC(C)C | C16H16Br2N6O2
